US06956053B2
Step c. 3-{[3-(Adamantan-1-yloxymethyl)-1-cyclohexyl-5-methoxy-1H-pyrazole-4-carbonyl]-amino}-benzoic acid ethyl ester
The compound was prepared by treating 3-(adamantan-1-yloxymethyl)-4-bromo-1-cyclohexyl-5-methoxy-1H-pyrazole with n-butyl lithium and 3-ethoxycarbonylphenyl isocyanate as outlined in Reaction Scheme 4.

reactant | 3-(adamantan-1-yloxymethyl)-4-bromo-1-cyclohexyl-5-methoxy-1H-pyrazole | C12(CC3CC(CC(C1)C3)C2)OCC2=NN(C(=C2Br)OC)C2CCCCC2 | C21H31BrN2O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-ethoxycarbonylphenyl isocyanate | C(C)OC(=O)C=1C=C(C=CC1)N=C=O | C10H9NO3
product | 3-{[3-(Adamantan-1-yloxymethyl)-1-cyclohexyl-5-methoxy-1H-pyrazole-4-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)NC(=O)C=1C(=NN(C1OC)C1CCCCC1)COC12CC3CC(CC(C1)C3)C2)=O | C31H41N3O5
